US06624309B1
A. N-(3,3-Dimethylcyclopentyl)benzenemethanamine
4,4-Dimethyl-2-cyclopenten-1-one (804 mg, 7.30 mmol) and benzylamine (877 μL, 8.03 mmol) were dissolved in 15 mL of ethanol. Charcoal (400 mg) and platinum oxide (Adams' catalyst, 331 mg, 1.46 mmol) were added and the mixture was stirred under hydrogen (balloon) for 24 hours. The reaction was purged with argon and diluted with ethyl acetate. The mixture was loaded onto silica gel and purified by flash chromatography on silica gel eluted with 5% triethylamine and hexane to provide 1.24 g (84%) of a clear colorless oil.

reactant | 4,4-Dimethyl-2-cyclopenten-1-one | 7.30 mmol, 804 mg | CC1(C=CC(C1)=O)C | C7H10O
reactant | benzylamine | 8.03 mmol, 877 μL | C(C1=CC=CC=C1)N | C7H9N
reactant | Charcoal | 400 mg | C | CH4
solvent | ethanol | 15 mL | C(C)O | C2H6O
catalyst | platinum oxide | 1.46 mmol, 331 mg | [Pt]=O
product | N-(3,3-Dimethylcyclopentyl)benzenemethanamine | 1.24 g, 84% | CC1(CC(CC1)NCC1=CC=CC=C1)C | C14H21N
